US06995144B2
3-Bromothiophene-2-carboxaldehyde dimethylacetal
After dissolving 5.97 g of 3-bromothiophene-2-carboxaldehyde in 90 ml of dichloromethane, a mixture of 8.0 g of montmorillonite K-10 and 120 ml of trimethyl orthoformate was added while stirring and the mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered and then the solvent was distilled off under reduced pressure to obtain the title compound (7.21 g, 97% yield).

reactant | 3-bromothiophene-2-carboxaldehyde | 5.97 g | BrC1=C(SC=C1)C=O | C5H3BrOS
reactant | montmorillonite K-10 | 8.0 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | trimethyl orthoformate | 120 ml | C(OC)(OC)OC | C4H10O3
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 3-Bromothiophene-2-carboxaldehyde dimethylacetal | 7.21 g, 97% yield | COC(C=1SC=CC1Br)OC | C7H9BrO2S
